US05354937
Preparation of 3,4,4-trimethylhex-1-en-3-ol
3,4,4-Trimethylhex-l-yn-3-ol can be hydrogenated at from 0° to 50° C., preferably 5° to 20° C., and from 0.01 to 50 bar, preferably 0.1 to 10 bar, particularly preferably 0.5 to 5 bar, in a hydrogen atmosphere, in the presence or absence of an inert solvent on partial hydrogenation catalysts, such as e.g. according to Houben-Weyl, Methoden der organischen Chemie (Methods of Organic Chemistry), Volume 4/lc, pages 107 to 109. After hydrogen absorption is complete, the catalyst is as a rule filtered off and the solvent is removed by distillation. The crude product can be directly processed or distilled again.

reactant | 3,4,4-Trimethylhex-l-yn-3-ol | CC(C#C)(C(CC)(C)C)O | C9H16O
reactant | hydrogen | [H][H] | H2
product | 3,4,4-trimethylhex-1-en-3-ol | CC(C=C)(C(CC)(C)C)O | C9H18O
